US08470847B2
52.85 ml of 0.5 M cyclopropylmagnesium bromide (26.43 mmol, Aldrich) are added to a solution of 3 g of 1-methoxy-4-(trimethylsilyl)but-3-yn-2-one (17.62 mmol) in 160 ml of ether. The mixture is stirred at ambient temperature overnight and is then cooled with a water/ice bath and a solution of NH4Claq and ethyl acetate is added. The mixture is extracted 3 times with ethyl acetate and the organic phases are then combined, dried over sodium sulphate, filtered, and concentrated under vacuum. The oily residue is purified by silica column chromatography, elution being carried out with a cyclohexane:ethyl acetate gradient, 100:0 to 80:20, so as to obtain 1.9 g of (±)-2-cyclopropyl-1-methoxy-4-(trimethylsilyl)but-3-yn-2-ol in the form of an oil, with a yield of 51%.

reactant | cyclopropylmagnesium bromide | 26.43 mmol, 0.5 M, 52.85 ml | C1(CC1)[Mg]Br
reactant | 1-methoxy-4-(trimethylsilyl)but-3-yn-2-one | 17.62 mmol, 3 g | COCC(C#C[Si](C)(C)C)=O | C8H14O2Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | 160 ml | CCOCC | C4H10O
product | (±)-2-cyclopropyl-1-methoxy-4-(trimethylsilyl)but-3-yn-2-ol | 1.9 g, yield of 51% | C1(CC1)C(COC)(C#C[Si](C)(C)C)O | C11H20O2Si
